US07863332B2
d. Preparation of methyl (E)-3-(3-benzyloxy-4-iodophenyl)acrylate
5.0 g (14.95 mmol, 1.5 eq) of methyl (triphenylphosphoranylidene)acetate are added to a solution of 3.25 g (9.6 mmol, 1 eq) of 3-benzyloxy-4-iodobenzaldehyde in 15 ml of toluene. The reaction mixture is heated at 90° C. for 1 hour. The solvent is evaporated off and the oil obtained is chromatographed on silica gel (8/2 heptane/ethyl acetate). After recrystallization from dichloromethane/heptane, 2.59 g of methyl (E)-3-(3-benzyloxy-4-iodophenyl)acrylate are obtained. Yield=68%

reactant | methyl (triphenylphosphoranylidene)acetate | 14.95 mmol, 5.0 g, 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | 3-benzyloxy-4-iodobenzaldehyde | 9.6 mmol, 3.25 g, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1I | C14H11IO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (E)-3-(3-benzyloxy-4-iodophenyl)acrylate | Yield=68% | C(C1=CC=CC=C1)OC=1C=C(C=CC1I)/C=C/C(=O)OC | C17H15IO3
